US04159380
4-Chloro-5-[[1-(4-chlorophenyl)-2-(1H-imidazol-1-yl)ethoxy]methyl]-1-ethyl-3-methyl-1H-pyrazolo[3,4-b]pyridine, hydrochloride
To 5.4 g. of this product, 4-chloro-5-[[1-(4-chlorophenyl)-2-(1H-imidazol-1-yl)ethoxy]methyl]-1-ethyl-3-methyl-1H-pyrazolo[3,4-b]pyridine dissolved in 15 ml. of absolute alcohol and 5 ml. of alcoholic hydrochloric acid (184 g. HCl/l) by slight warming, are added 120 ml. of ether. The precipitated hydrochloride is filtered off after standing overnight, washed with a mixture of ether and alcohol (5:1) and dried, yield 6.3 g. (100%); m.p. 184°-185°.

reactant | 4-chloro-5-[[1-(4-chlorophenyl)-2-(1H-imidazol-1-yl)ethoxy]methyl]-1-ethyl-3-methyl-1H-pyrazolo[3,4-b]pyridine | ClC1=C2C(=NC=C1COC(CN1C=NC=C1)C1=CC=C(C=C1)Cl)N(N=C2C)CC | C21H21Cl2N5O
reactant | hydrochloric acid | 184 g | Cl | ClH
solvent | ether | CCOCC | C4H10O
product | 4-Chloro-5-[[1-(4-chlorophenyl)-2-(1H-imidazol-1-yl)ethoxy]methyl]-1-ethyl-3-methyl-1H-pyrazolo[3,4-b]pyridine, hydrochloride | Cl.ClC1=C2C(=NC=C1COC(CN1C=NC=C1)C1=CC=C(C=C1)Cl)N(N=C2C)CC | InChI=1S/C21H21Cl2N5O.ClH/c1-3-28-21-19(14(2)26-28)20(23)16(10-25-21)12-29-18(11-27-9-8-24-13-27)15-4-6-17(22)7-5-15;/h4-10,13,18H,3,11-12H2,1-2H3;1H
